US04518596
8-Benzylthio-2-piperazino-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 8-benzylthio-2-chloro-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 162°-164° C.) and piperazine.

reactant | 8-benzylthio-2-chloro-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCSCC2)Cl | C17H16ClN5S2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Benzylthio-2-piperazino-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCSCC2)N2CCNCC2 | C21H25N7S2
